US04792561
To a solution of 240 mg of 6-[1-hydroxy-1-phenyl(3-pyridyl)methyl]-3,4-dihydrocarbostyril in 5 ml of trifluoroacetic acid at 0° C. was added 280 mg of sodium borohydride. When hydrogen evolution ceased the mixture was stirred at 25° C. for 30 minutes, then the solvent was removed under reduced pressure. The residue was added to aqueous potassium carbonate solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the solvent removed under reduced pressure and the residue chromatographed on silica gel, eluting with 3% methanol in methylene chloride to give 6-[phenyl(3-pyridyl)methyl]-3,4-dihydrocarbostyril, m.p. 95°-96° C.

reactant | 6-[1-hydroxy-1-phenyl(3-pyridyl)methyl]-3,4-dihydrocarbostyril | 240 mg | OC(C1=CC=CC=C1)(C=1C=C2CCC(NC2=CC1)=O)C=1C=NC=CC1 | C21H18N2O2
reactant | sodium borohydride | 280 mg | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-[phenyl(3-pyridyl)methyl]-3,4-dihydrocarbostyril | C1(=CC=CC=C1)C(C=1C=C2CCC(NC2=CC1)=O)C=1C=NC=CC1 | C21H18N2O
